US07696229B2
3-methylbenzo[d]oxazol-2(3H)-one (620 mg, 4.16 mmol) was added, in several batches, to chilled sulfurochloridic acid (17.5 g, 150.86 mmol) at 0° C. The resulting solution was stirred at room temperature for 3 hours, then quenched by adding it slowly to 200 mL of ice/salt. The resulting solution was extracted with ethyl acetate (3×40 mL). The organic layers were combined, dried (Na2SO4), filtered and concentrated to afford 0.5 g (46%) of 3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazole-6-sulfonyl chloride as a light brown solid. 1H NMR (CDCl3) δ 8.00 (d, 1H), 7.97 (s, 1H), 7.16 (d, 1H), 3.52 (s, 3H).

reactant | 3-methylbenzo[d]oxazol-2(3H)-one | 4.16 mmol, 620 mg | CN1C(OC2=C1C=CC=C2)=O | C8H7NO2
reactant | sulfurochloridic acid | 150.86 mmol, 17.5 g | S(O)(=O)(=O)Cl | ClHO3S
product | 3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazole-6-sulfonyl chloride | 0.5 g, 46% | CN1C(OC2=C1C=CC(=C2)S(=O)(=O)Cl)=O | C8H6ClNO4S
